US06372735B1
Ethyl 5-(3,4-dimethoxybenzoyl)-2-(1-isopropoxycarbonyloxy-2-methylpropyl)-2H-1,2,3-triazole-4-carboxylate
p-Toluenesulfonic acid monohydrate (482 mg, 2.5 mmol) and isobutylaldehyde (3.4 ml, 37 mmol) were added to a solution of ethyl 5-(3,4-dimethoxybenzoyl)-1H-1,2,3-triazole-4-carboxylate (7.7 g, 25 mmol), prepared in the same manner as described above in connection with Intermediate 5, in methylene chloride (115 ml) under an argon atmosphere at −20° C. The mixture was stirred at −20° C. for one hr. Carbonyldiimidazole (6.2 g, 38 mmol) was added thereto, followed by stirred at −20° C. for additional one hr. Isopropyl alcohol (20 ml) was added thereto. The mixture was cooled to −30° C. Trifluoroacetic acid (5.8 ml, 75 mmol) was added thereto. The mixture was stirred at room temperature for 18 hr. The reaction solution was treated by a conventional method and purified by column chromatography on silica gel (hexane/ethyl acetate) to give the title compound as a colorless liquid (10.9 g, 93.4%).

reactant | p-Toluenesulfonic acid monohydrate | 2.5 mmol, 482 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethyl 5-(3,4-dimethoxybenzoyl)-1H-1,2,3-triazole-4-carboxylate | 25 mmol, 7.7 g | COC=1C=C(C(=O)C2=C(N=NN2)C(=O)OCC)C=CC1OC | C14H15N3O5
reactant | Carbonyldiimidazole | 38 mmol, 6.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Trifluoroacetic acid | 75 mmol, 5.8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | Isopropyl alcohol | 20 ml | C(C)(C)O | C3H8O
solvent | methylene chloride | 115 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 5-(3,4-dimethoxybenzoyl)-2-(1-isopropoxycarbonyloxy-2-methylpropyl)-2H-1,2,3-triazole-4-carboxylate | 10.9 g, 93.4% | COC=1C=C(C(=O)C=2C(=NN(N2)C(C(C)C)OC(=O)OC(C)C)C(=O)OCC)C=CC1OC | C22H29N3O8
